US06177452B1
A mixture of 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid (1.43 g), phenol (0.94 g), potassium carbonate (2.10 g) and N,N-dimethylformamide (10 ml) was stirred at 140° C. for 3 hours. Water was added to the reaction mixture, which was then acidified with 6N hydrochloric acid. The crystals thus precipitated were collected by filtration to obtain 4-(4-chlorophenyl)-2-phenoxy-5-oxazolepropionic acid (1.60 g, 93%). This was recrystallized from ethyl acetate to give colorless needles. mp 136-137° C.

reactant | 2-chloro-4-(4-chlorophenyl)-5-oxazolepropionic acid | 1.43 g | ClC=1OC(=C(N1)C1=CC=C(C=C1)Cl)CCC(=O)O | C12H9Cl2NO3
reactant | phenol | 0.94 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 2.10 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | Water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 4-(4-chlorophenyl)-2-phenoxy-5-oxazolepropionic acid | 1.60 g, 93% | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)OC1=CC=CC=C1 | C18H14ClNO4
